US09328134B2
In a 100 mL 2 neck round bottom flask, (R)-1-((4R,5S)-5-((R)—((R)-2,2-dimethyl-1,3-dioxolan-4-yl)(hydroxy)methyl)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2,2-trifluoroethanol (1 g, 3.03 mmol) and 2,6-lutidine (1 g, 9.09 mmol, commercially available from Sigma Aldrich, India) was taken up in dry DCM (50 mL) at 0° C. under a nitrogen atmosphere. TBSOTf (2.4 g, 9.09 mmol, commercially available from Sigma Aldrich, India) was added to the above reaction mixture at the same temperature under a nitrogen atmosphere. The reaction mixture was stirred for 30 min at 0° C. and then the temperature was slowly raised to rt and the mixture stirred at rt for 3 h. Upon completion of the reaction (TLC, 20% EtOAc in hexane Rf 0.5), the reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with water (20 mL) and brine (20 mL), and were then concentrated under reduced pressure. The residue obtained was purified by silica gel (60-120 mesh) column chromatography (gradient elution 10-15% EtOAc-hexanes) to give (R)-1-((4R,5R)-5-((R)-((tert-butyldimethylsilyl)oxy)((R)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2,2-trifluoroethanol as a pale yellow oil (0.7 g, 50%): 1H NMR (400 MHz, CDCl3) δ 4.52-4.45 (m, 2H), 4.29-4.25 (m, 1H), 4.22-4.19 (m, 1H), 4.04-3.93 (m, 2H), 3.78-3.74 (t, J=8.0 Hz, 1H), 2.70 (d, J=11.2 Hz, 1H), 1.55 (s, 3H), 1.40 (d, J=9.6 Hz, 3H), 0.86 (s, 9H), 0.11 (d, J=3.2 Hz, 6H), 5 H were obscured.

reactant | (R)-1-((4R,5S)-5-((R)—((R)-2,2-dimethyl-1,3-dioxolan-4-yl)(hydroxy)methyl)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2,2-trifluoroethanol | 3.03 mmol, 1 g | CC1(OC[C@@H](O1)[C@H]([C@H]1[C@H](OC(O1)(C)C)[C@H](C(F)(F)F)O)O)C | C13H21F3O6
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | TBSOTf | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (R)-1-((4R,5R)-5-((R)-((tert-butyldimethylsilyl)oxy)((R)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-2,2-dimethyl-1,3-dioxolan-4-yl)-2,2,2-trifluoroethanol | 0.7 g, 50% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H]1[C@H](OC(O1)(C)C)[C@H](C(F)(F)F)O)[C@@H]1OC(OC1)(C)C | C19H35F3O6Si
